US09079880B2
Add palladium hydroxide (3.1 g, 22 mmol) to a solution of trans-1-benzyl-4-(3-bromo-phenyl)-pyrrolidine-3-carboxylic acid methyl ester (15 g, 40 mmol) in MeOH (200 mL). Place the mixture under an atmosphere of hydrogen and stir at room temperature for 12 h. Filter the reaction mixture through a pad of diatomaceous earth and concentrate under reduced pressure to provide 11 g (97%) of trans-4-(3-bromo-phenyl)-pyrrolidine-3-carboxylic acid methyl ester.

reactant | trans-1-benzyl-4-(3-bromo-phenyl)-pyrrolidine-3-carboxylic acid methyl ester | 40 mmol, 15 g | COC(=O)[C@@H]1CN(C[C@H]1C1=CC(=CC=C1)Br)CC1=CC=CC=C1 | C19H20BrNO2
solvent | MeOH | 200 mL | CO | CH4O
catalyst | palladium hydroxide | 22 mmol, 3.1 g | [OH-].[Pd+2].[OH-]
product | trans-4-(3-bromo-phenyl)-pyrrolidine-3-carboxylic acid methyl ester | 11 g, 97% | COC(=O)[C@@H]1CNC[C@H]1C1=CC(=CC=C1)Br | C12H14BrNO2
